US05064863
A solution of 1.0 g of p-[2-[bis[(RS)-2-hydroxy-3-phenoxypropyl]amino]ethyl]phenol, 0.27 ml of benzyl bromide and 257 mg of potassium hydroxide in 30 ml of n-propanol was heated to 120° for 18 hours. The reaction mixture was poured on to ice-water and extracted with ethyl acetate. The crude product obtained after evaporation of the solvent was chromatographed on silica gel. The fractions which were uniform according to thin-layer chromatography were recrystallized from acetone-hexane and yielded pure 1,1'-[[p-(benzyloxy)phenethyl]imino]bis[(RS)-3-phenoxy-2-propanol], m.p. 106°-110°, ε219 =30020.

reactant | p-[2-[bis[(RS)-2-hydroxy-3-phenoxypropyl]amino]ethyl]phenol | 1.0 g | OC(CN(CCC1=CC=C(C=C1)O)CC(COC1=CC=CC=C1)O)COC1=CC=CC=C1 | C26H31NO5
reactant | benzyl bromide | 0.27 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | 257 mg | [OH-].[K+]
solvent | n-propanol | 30 ml | C(CC)O | C3H8O
product | 1,1'-[[p-(benzyloxy)phenethyl]imino]bis[(RS)-3-phenoxy-2-propanol] | C(C1=CC=CC=C1)OC1=CC=C(CCN(CC(COC2=CC=CC=C2)O)CC(COC2=CC=CC=C2)O)C=C1 | C33H37NO5
